US05179090
5,11-Dihydro-11-[[7-methyl-3,7-diazabicyclo[3.3.0]-oct-3-yl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A mixture of 4.9 g (18 mmoles) of 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2.3 g of 3- methyl-3,7-diazabicyclo[3.3.0]octane in 75 ml of dry dimethylformamide was stirred for 20 hours at ambient temperature. The reaction mixture was concentrated in vacuo, the residue was divided between 1N hydrochloric acid and methylene chloride. The organic phase was washed two further times using 1N hydrochloric acid and once using water. The combined aqueous phases were rendered basic using potassium carbonate and extracted using methylene chloride (3×150 ml). The combined methylene chloride phases were dried over magnesium sulphate, concentrated and the crude material was recrystallised from acetonitrile. 2.9 g (41% of theory) of colourless crystals of m.p. 157°-159° C. were obtained.

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 18 mmoles, 4.9 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3- methyl-3,7-diazabicyclo[3.3.0]octane | 2.3 g | CN1CC2CNCC2C1 | C7H14N2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 5,11-Dihydro-11-[[7-methyl-3,7-diazabicyclo[3.3.0]-oct-3-yl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | CN1CC2CN(CC2C1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C20H21N5O2
